US08133909B2
2-(2-Methoxy-phenyl)-N-(6-methoxy-pyridin-3-yl)-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide
In analogy to example 33, step 2, without TFA addition, (6-methoxy-pyridin-3-yl)-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine, prepared in example 33, step 1) was coupled to (2-methoxy-phenyl)-acetic acid (commercially available) to give the title compound. MS m/e: 445.3 [M+H]+.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (6-methoxy-pyridin-3-yl)-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine | COC1=CC=C(C=N1)NCCC1=CC=C(C=C1)C(F)(F)F | C15H15F3N2O
reactant | (2-methoxy-phenyl)-acetic acid | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
product | 2-(2-Methoxy-phenyl)-N-(6-methoxy-pyridin-3-yl)-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide | COC1=C(C=CC=C1)CC(=O)N(CCC1=CC=C(C=C1)C(F)(F)F)C=1C=NC(=CC1)OC | C24H23F3N2O3
